US06414149B1
(R)-2-(1-Acetoxy-ethyl)-3H-pyrimidin-4-one
To a solution of vinyl acetate (4.3 g, 50 mmol) in dioxane (63 mL) was added 2-(1-hydroxy-ethyl)-3H-pyrimidin-4-one (prepared according to the method of Preparation Twelve, 2.1 g, 15.1 mmol), and the mixture was heated to 50° C. To the resulting solution was added lipase P30 (0.21 g, 10 wt %) and the heating was continued for 24 h. The reaction mixture was filtered and the filtrate was evaporated to obtain a thick syrupy liquid residue. The residue was purified by flash column chromatography (95:5 dichloromethane:methanol) to give the title compound as a colorless liquid, 0.97 g (92% of theory). 1H NMR (CDCl3, 300 MHz) δ1.61 (d, 3H), 2.20 (s, 3H), 5.65 (q, 1H), 6.35 (d, 1H), 7.97 (d, 1H), 11.94 (s, 1H); [α]D +39.9 (c 1.0, MeOH).

reactant | vinyl acetate | 50 mmol, 4.3 g | C(C)(=O)OC=C | C4H6O2
reactant | 2-(1-hydroxy-ethyl)-3H-pyrimidin-4-one | OC(C)C1=NC=CC(N1)=O | C6H8N2O2
solvent | dioxane | 63 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(1-Acetoxy-ethyl)-3H-pyrimidin-4-one | C(C)(=O)O[C@H](C)C1=NC=CC(N1)=O | C8H10N2O3
